US07153878B2
2-[4-Isopropyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-yl]-propan-1-ol (329 mg, 1.0 mmol) is dissolved into anhydrous toluene (5 mL) and cooled in an ice bath to 0° C. with stirring under nitrogen. Tributyl phosphine (400 uL, 1.50 mmol) is added by syringe followed by 1-1′-azodicarbonyl-dipiperidine (405 mg, 1.50 mmol). Finally, 3-(4-Hydroxy-2-methyl-phenyl)-propionic acid methyl ester (200 mg, 1.20 mmol) is then added. The reaction is allowed to stir under nitrogen at 0° C. for 1 hour, then room temperature and monitored by TLC and HPLC. Upon completion, the reaction is diluted with hexanes and allowed to stir vigorously for 10 min. The resulting white precipitate is then filtered away and the solution is concentrated under vacuum. The residue is further purified using either EtOAc/Hexanes (1:9) or Acetone/Hexanes (1:9) gradients on silica gel chromatography to yield 3-(4-{2-[4-Isopropyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-yl]-propoxy}-2-methyl-phenyl)-propionic acid methyl ester (239 mg, 0.4725 mmol) or 45%.

reactant | 2-[4-Isopropyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-yl]-propan-1-ol | 1.0 mmol, 329 mg | C(C)(C)C=1N=C(SC1C(CO)C)C1=CC=C(C=C1)C(F)(F)F | C16H18F3NOS
reactant | Tributyl phosphine | 1.50 mmol, 400 uL | C(CCC)P(CCCC)CCCC | C12H27P
reactant | 3-(4-Hydroxy-2-methyl-phenyl)-propionic acid methyl ester | 1.20 mmol, 200 mg | COC(CCC1=C(C=C(C=C1)O)C)=O | C11H14O3
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
product | 3-(4-{2-[4-Isopropyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-yl]-propoxy}-2-methyl-phenyl)-propionic acid methyl ester | 0.4725 mmol, 239 mg | COC(CCC1=C(C=C(C=C1)OCC(C)C1=C(N=C(S1)C1=CC=C(C=C1)C(F)(F)F)C(C)C)C)=O | C27H30F3NO3S
